US07534797B2
[3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutyl]-methanol
To a solution of NIS (6.31 g, 28.0 mmol) in anh DMF (100 mL) under Ar was added dry [3-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutyl]methanol (6.67 g) dissolved in anh DMF (30 mL). The flask containing [3-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutyl]methanol was rinsed with another portion of anh DMF (20 mL) and the rinse was added to the reaction mixture. The reaction was heated to 60° C. (rt→60° C.˜30 min) and the stirred at this temperature for 3 h. The mixture was then cooled to rt, partitioned between 1 M aq Na2S2O3 (60 mL), brine (60 mL) and DCM (160 mL). The aq layer was extracted with DCM (3×100 mL). The combined organics were dried (Na2SO4), concentrated under reduced pressure and purified by flash chromatography on SiO2 (0-8% MeOH in DCM) to provide a material, homogenous by UV on both TLC and HPLC, still containing DMF. The material was dissolved in DCM (200 mL) and washed with water (3×40 mL), dried (Na2SO4) and concentrated under reduced pressure to provide the title compound as a pale yellow solid; HPLC (polar5 min) 2.52 min; MS (ES+): m/z (rel. int.) 364.0 (100, M++1); 1H NMR (400 MHz, CDCl3) δ 7.59 (d, J=4.8 Hz, 1H), 7.49 (d, J=4.8 Hz, 0.22H, minor isomer), 7.29 (d, J=4.8 Hz, 1H), 7.28 (d, J=5.2 Hz, 0.23H, minor isomer), 3.83-3.80 (m, 0.7H), 3.72-3.62 (m, 3H), 2.75-2.55 (m, 4H), 2.42-2.32 (m, 1-2H).

reactant | NIS | 28.0 mmol, 6.31 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | [3-(8-chloroimidazo[1,5-a]pyrazin-3-yl)cyclobutyl]methanol | 6.67 g | ClC=1C=2N(C=CN1)C(=NC2)C2CC(C2)CO | C11H12ClN3O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | [3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-cyclobutyl]-methanol | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)CO | C11H11ClIN3O
